US06642240B2
Trimethylsilyldiazomethane (11.5 mL) was added drop-wise to a solution of 3,5-bis-(trifluoromethyl)benzoic acid (2 g) in dry toluene (20 mL) and methanol (0.5 mL) previously cooled to 0° C. under a nitrogen atmosphere. The solution was stirred at r.t. for 1 hr, then concentrated in vacuo to give 3,5-bis-(trifluoromethyl)-benzoic acid methyl ester (2 g) as a colourless oil. A solution of 3,5-bis-(trifluoromethyl)-benzoic acid methyl ester (2 g) and 1-vinyl-2-pyrrolidinone (863 μL) was added to a mixture of sodium hydride (60% suspension in mineral oil—0.41 g) in dry toluene (30 mL) previously heated to reflux. The mixture was stirred for 12 hrs, then it was partitioned between saturated ammonium chloride solution and AcOEt. The organic layer was dried, concentrated in vacuo and the residue was purified by flash chromatography (CH/AcOEt 8:2) to give the title compound (1.6 g) as a beige oil.

reactant | Trimethylsilyldiazomethane | 11.5 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3,5-bis-(trifluoromethyl)benzoic acid | 2 g | FC(C=1C=C(C(=O)O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.5 mL | CO | CH4O
product | 3,5-bis-(trifluoromethyl)-benzoic acid methyl ester | 2 g | COC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C10H6F6O2
